US07485644B2
To a stirred suspension of 5-iodo-2-[4-(methylsulfonyl)piperazin-1-yl]pyrimidine (25.0 g, 67.9 mmol), benzyl alcohol (125 mL), 1,10-phenanthroline (2.45 g, 20 mol %), and cesium carbonate was added copper (I) iodide (12.9 g, 67.9 mmol) and the reaction heated to 110° C. for 90 minutes then cooled to room temperature. DCM (250 mL) was then added and the insolubles filtered off through a pad of celite. The cake washed with DCM (250 mL) and the DCM filtrates washed with water. The aqueous phase was then back extracted with more DCM (500 mL), the combined DCM extracts washed with brine (500 mL), dried (MgSO4), filtered and concentrated in vacuo to a dark brown sludge. This was then purified by flash chromatography (silica gel, 50% EtOAc/hexanes) to give 5-(benzyloxy)-2-[4-(methylsulfonyl)piperazin-1-yl]pyrimidine as an off white solid (14.2 g, 40.7 mmol, 60%).

reactant | 5-iodo-2-[4-(methylsulfonyl)piperazin-1-yl]pyrimidine | 67.9 mmol, 25.0 g | IC=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C | C9H13IN4O2S
reactant | benzyl alcohol | 125 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | 1,10-phenanthroline | 2.45 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper (I) iodide | 67.9 mmol, 12.9 g | [Cu]I
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 5-(benzyloxy)-2-[4-(methylsulfonyl)piperazin-1-yl]pyrimidine | C(C1=CC=CC=C1)OC=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C | C16H20N4O3S
